US04939144
3,4-Dihydro-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1(2H)-dibenzothiophenone hydrochloride
A mixture of (E)-3,4-dihydro-2-[(5-methyl-1H-imidazol-4-yl) methylene]-1(2H)-dibenzothiophenone (599 mg), 2N hydrochloric acid (2 ml) and ethanol (50 ml) was hydrogenated at atmospheric pressure and room temperature using a 10% palladium on charcoal catalyst (60 mg) for 20 h. The suspension was warmed on a steam bath for 10 min and then filtered. The filtrate was evaporated to give an oil which was purified by FCC eluting with System A (100:10:1) to give a solid. A solution of this solid in a mixture of dichloromethane (20 ml) and methanol (5 ml) was treated with a slight excess of ethereal hydrogen chloride. The solution was evaporated to give the title compound (449 mg), m.p. 266°-269°, t.l.c. (System A 100:10:1) Rf 0.3.

reactant | (E)-3,4-dihydro-2-[(5-methyl-1H-imidazol-4-yl) methylene]-1(2H)-dibenzothiophenone | 599 mg | CC1=C(N=CN1)\C=C/1\C(C2=C(SC3=C2C=CC=C3)CC1)=O | C17H14N2OS
reactant | hydrochloric acid | 2N, 2 ml | Cl | ClH
reactant | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 60 mg | [Pd] | Pd
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | methanol | 5 ml | CO | CH4O
product | 3,4-Dihydro-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1(2H)-dibenzothiophenone hydrochloride | 449 mg | Cl.CC1=C(N=CN1)CC1C(C2=C(SC3=C2C=CC=C3)CC1)=O | InChI=1S/C17H16N2OS.ClH/c1-10-13(19-9-18-10)8-11-6-7-15-16(17(11)20)12-4-2-3-5-14(12)21-15;/h2-5,9,11H,6-8H2,1H3,(H,18,19);1H
